US07572809B2
Similar procedure as described in example 9B was used, starting from 6-Bromo-5-methoxy-indan-1-one and n-butylnitrite to give 6-Bromo-5-methoxy-indan-1,2-dione 2-oxime. LC-MS: m/e 270 (MH+).

reactant | 6-Bromo-5-methoxy-indan-1-one | BrC1=C(C=C2CCC(C2=C1)=O)OC | C10H9BrO2
reactant | n-butylnitrite | C(CCC)ON=O | C4H9NO2
product | 6-Bromo-5-methoxy-indan-1,2-dione 2-oxime | BrC1=C(C=C2CC(C(C2=C1)=O)=NO)OC | C10H8BrNO3
